US05616586
9-Bromo-5-(3-pyridylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and 3-aminopyridine (60 mg, 0.64 mmol) to give 170 mg of the title compound (80%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.08 (bs, 1H), 10.58 (s, 1H), 8.31 (d, 1H, J=4.6 Hz), 8.07 (t, 2H, J=8.1 Hz), 7.79 (t, 1H, J=8.1 Hz), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 1H, J=2 Hz), 7.10 (dd, 1H, J=4.6, 8.1 Hz), 5.17~5.27 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.81 (dm, 1H, J=17.1 Hz), 2.76 (dd, 1H, J=13.5, 7.2 Hz), 2.57 (dd, 1H, J=13.5, 5.4 Hz), 2.07 (dm, 1H, J=13.5 Hz), 1.80~1.94 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | 3-aminopyridine | 0.64 mmol, 60 mg | NC=1C=NC=CC1 | C5H6N2
product | 9-Bromo-5-(3-pyridylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 170 mg, 80% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC=2C=NC=CC2)=O | C18H15BrN4O3
